US03984415
2.8 g of 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione was dissolved in 30 ml of dimethylformamide. To the solution was added 0.6 g of about 50 % sodium hydride and the whole was stirred for 20 minutes at room temperature, and then heated up to 90°C. To this was added dropwise a solution of 7.5 g of 2,2,2-trifluoroethyl p-toluenesulfonate and 20 ml of tetrahydrofuran and the mixture was reacted for 2 hours. After the reaction was complete, the solvent was removed from the resulting mixture by distillation, and to the residue obtained was added water to precipitate a crude product. This product was recrystallized from methanol to yield 3.2 g of 1-(m-nitrophenyl)-3-(2,2,2-trifluoroethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione as pale yellow prisms, melting at 228-229°C.

reactant | 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=C1N=CC=C2)=O)=O | C13H8N4O4
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl p-toluenesulfonate | 7.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(F)(F)F)C | C9H9F3O3S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(m-nitrophenyl)-3-(2,2,2-trifluoroethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 3.2 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC(F)(F)F)=O | C15H9F3N4O4
